US08486967B2
a) 8-(3,6-Dihydro-2H-pyran-4-yl)-6-methyl-[1,2,4]triazolo[1,5-a]pyridin-2-amine
Prepared in analogy to example 160b, starting from 8-bromo-6-methyl-[1,2,4]triazolo[1,5-a]pyridin-2-ylamine and 2-(3,6-dihydro-2H-pyran-4-yl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane. The title compound was obtained a light brown solid (yield: 55%) after column chromatography on silica gel using ethyl acetate as eluent.

reactant | 8-bromo-6-methyl-[1,2,4]triazolo[1,5-a]pyridin-2-ylamine | BrC=1C=2N(C=C(C1)C)N=C(N2)N | C7H7BrN4
reactant | 2-(3,6-dihydro-2H-pyran-4-yl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | O1CCC(=CC1)B1OC(C(O1)(C)C)(C)C | C11H19BO3
product | 8-(3,6-Dihydro-2H-pyran-4-yl)-6-methyl-[1,2,4]triazolo[1,5-a]pyridin-2-amine | O1CCC(=CC1)C=1C=2N(C=C(C1)C)N=C(N2)N | C12H14N4O
